US05276025
Step A: Preparation of 3(R,S)-methyl-7-sulfamoyl-3,4-dihydrothieno[3,2-f]-1,4-thiazepin-5(2H)-one
To a mixture of potassium tert-butoxide (8.56 g, 0.076 mol) in ethanol (75 mL) was added 2(R,S)-aminopropanethiol (3.1 g, 0.0246 mol) and ethyl 2-chloro-5-sulfamoylthiophene-3-carboxylate (5.98 g, 0.022 mol). The mixture was heated at reflux for 24 hours, and then allowed to stand at room temperature for 24 hours. Following removal of most of the solvent by vacuum concentration, the mixture was acidified to pH 3 with dilute hydrochloric acid. The resulting solids were removed by filtration and dried to give 4.44 g of the title compound, mp 184°-187° C.

reactant | potassium tert-butoxide | 0.076 mol, 8.56 g | CC(C)([O-])C.[K+]
reactant | 2(R,S)-aminopropanethiol | 0.0246 mol, 3.1 g | NC(CS)C | C3H9NS
reactant | ethyl 2-chloro-5-sulfamoylthiophene-3-carboxylate | 0.022 mol, 5.98 g | ClC=1SC(=CC1C(=O)OCC)S(N)(=O)=O | C7H8ClNO4S2
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3(R,S)-methyl-7-sulfamoyl-3,4-dihydrothieno[3,2-f]-1,4-thiazepin-5(2H)-one | 4.44 g | CC1CSC2=C(C(N1)=O)C=C(S2)S(N)(=O)=O | C8H10N2O3S3
